US04322303
3-(3,5-Di-t-butyl-4-hydroxyphenyl)-propionic acid allyl ester
0.2 g of lithium amide and in the course of 5 hours 38 g of allyl alcohol are added at 150° C. under nitrogen to 146 g of 3-(3,5-di-t-butyl-4-hydroxyphenyl)-propionic acid methyl ester. After completion of the addition, stirring is maintained at 150° C. for a further 10 hours. The brownish reaction mixture is cooled to about 100° C., and 150 ml of toluene, 0.5 g of concentrated acetic acid and 10 g of "Celite Hyflow Supercel" (product of Johns Manville Corp., USA) are added. There is thus obtained, after filtration and then removal of the solvent in vacuo, the title compound in crystalline form, m.p. about 40° C.

reactant | lithium amide | 0.2 g | [NH2-].[Li+]
reactant | allyl alcohol | 38 g | C(C=C)O | C3H6O
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)-propionic acid methyl ester | 146 g | COC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C18H28O3
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
product | 3-(3,5-Di-t-butyl-4-hydroxyphenyl)-propionic acid allyl ester | C(C=C)OC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H30O3
